US04446065
A. Preparation of 1-Piperidinocyclohexanecarbonitrile
Piperidine (44 g, 0.52 mole) was carefully mixed with 45 ml of concentrated HCl and 120 ml of cold water (pH 3-4). To this solution, 50 g (0.52 mole) of cyclohexanone was added, followed by 36 g of KCN in 100 ml of water with vigorous stirring. The resulting solution was allowed to stir at room temperature for overnight. After 2 hours, a white precipitate was formed. The crystalline precipitate was collected by filtration and washed with cold water. Recrystallization from 95% ethanol (300 ml) gave 88 g of white crystalline solid, mp 66°-8° C., in 88% yield.

reactant | Piperidine | 0.52 mole, 44 g | N1CCCCC1 | C5H11N
reactant | HCl | 45 ml | Cl | ClH
reactant | cyclohexanone | 0.52 mole, 50 g | C1(CCCCC1)=O | C6H10O
reactant | KCN | 36 g | [C-]#N.[K+]
solvent | water | 100 ml | O | H2O
solvent | water | 120 ml, pH 3-4 | O | H2O
product | 1-Piperidinocyclohexanecarbonitrile | 88 g, 88% yield | N1(CCCCC1)C1(CCCCC1)C#N | C12H20N2
